US06011174
(3) Preparation of (2RS,3SR)-3-(4-phenoxyphenyl)-5-phenylpentan-2-ol
50.6 g of 3-(4-phenoxyphenyl)-5-phenylpentan-2-one was dissolved in 1280 ml of tetrahydrofuran, and 180 ml of a 1M tetrahydrofuran solution of tri-sec-butyllithium borohydride was added under cooling to -78° C. with stirring, followed by stirring at the same temperature for one hour. To the reaction solution, 224 ml of a 4N sodium hydroxide aqueous solution was added under cooling with ice with stirring, and then 118 ml of a 30% hydrogen peroxide aqueous solution was gradually dropwise added, followed by stirring at 0° C. for one hour. Ethyl ether and water were added to the reaction solution, followed by extraction. The organic layer was washed with a saturated sodium thiosulfate aqueous solution and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to obtain 47.2 g (yield: 95%) of the above identified compound as a colorless oily substance.

reactant | 3-(4-phenoxyphenyl)-5-phenylpentan-2-one | 50.6 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(C)=O)CCC1=CC=CC=C1 | C23H22O2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1280 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2RS,3SR)-3-(4-phenoxyphenyl)-5-phenylpentan-2-ol | yield: 95% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(C)O)CCC1=CC=CC=C1 | C23H24O2
